US07253158B2
c) rac-Cyclopropanecarboxylic acid (4-{[(2-oxo-azepan-3-yl)-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-amide
Rac-4-trifluoromethyl-benzenesulfonic acid (4-amino-benzyl)-(2-oxo-azepan-3-yl)-amide (75 mg, 0.17 mmol) is dissolved in dichloromethane (2 ml), then pyridine (80 mg, 1 mmol) and cyclopropanecarbonyl chloride (21 mg, 0.2 mmol) were added. After shaking the mixture at room temperature for 1 hour hydrochloric acid (5 ml, 0.1M) was added. The organic layer was separated evaporated and the residue was redissolved in 1 ml of dimethylformamide for preparative HPLC separation (RP—C18, eluent acetonitrile/water) to yield 12 mg (14% of the final product). MS: m/e=510.4 (MH+), 527.2 (M+NH4+).

reactant | Rac-4-trifluoromethyl-benzenesulfonic acid (4-amino-benzyl)-(2-oxo-azepan-3-yl)-amide | 0.17 mmol, 75 mg | NC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)C(F)(F)F)C2C(NCCCC2)=O)C=C1 | C20H22F3N3O3S
reactant | pyridine | 1 mmol, 80 mg | N1=CC=CC=C1 | C5H5N
reactant | cyclopropanecarbonyl chloride | 0.2 mmol, 21 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | hydrochloric acid | 0.1M, 5 ml | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | rac-Cyclopropanecarboxylic acid (4-{[(2-oxo-azepan-3-yl)-(4-trifluoromethyl-benzenesulfonyl)-amino]-methyl}-phenyl)-amide | 14% | O=C1NCCCCC1N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)NC(=O)C1CC1 | C24H26F3N3O4S
